US05500453
A solution of 3.00 g of lithium butyltriphenylborate in 100 ml of acetonitrile was added to a solution of 1.73 g of dimethylvinylsulfonium tetrafluoroborate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into 500 ml of water, and the resultant oily component was separated, recovered, washed with water and recrystallized from dichloromethane/ether to give 1.19 g of dimethylvinylsulfonium-butyltriphenylborate.

reactant | lithium butyltriphenylborate | 3.00 g | C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | dimethylvinylsulfonium tetrafluoroborate | 1.73 g | F[B-](F)(F)F.CC(=C[SH2+])C
reactant | water | 500 ml | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | dimethylvinylsulfonium butyltriphenylborate | 1.19 g | CC(=C[SH2+])C.C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H24B.C4H8S/c1-2-3-19-23(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;1-4(2)3-5/h4-18H,2-3,19H2,1H3;3,5H,1-2H3/q-1;/p+1
